US04009171
A mixture of 1,2,3,4,5,6-hexahydro-6-methyl-8-hydroxy-11-oxo-2,6-methano-3-benzazocine (part A, 0.220 g.), cyclopropylmethyl bromide (0.200 g.), sodium bicarbonate (0.084 g.) and N,N-dimethylformamide (5 ml.) was stirred in a nitrogen atmosphere under reflux (for 2 hr.), then stripped of N,N-dimethylformamide. A solution of the residue in dilute hydrochloric acid (5%) was extracted with ether, neutralized and extracted with ether again. Desiccation and concentration of the latter ether extracts afforded 1,2,3,4,5,6-hexahydro-3-cyclopropylmethyl-6-methyl-8-hydroxy-11-oxo-2,6-methano-3-benzazocine (I: Q = CH2CHCH2CH2, R = CH3, X = HO, Y + Z = O) as a yellow oil, from which with methanesulfonic acid was obtained the methanesulfonate salt as another oil, from which with 1,5-naphthalenedisulfonic acid was obtained the crystalline 1,5-naphthalenedisulfonate tetrahydrate salt (220 mg., m.p. 287°-288° C.).

reactant | 1,2,3,4,5,6-hexahydro-6-methyl-8-hydroxy-11-oxo-2,6-methano-3-benzazocine | CC12CCNC(CC3=C1C=C(C=C3)O)C2=O | C13H15NO2
reactant | cyclopropylmethyl bromide | 0.200 g | C1(CC1)CBr | C4H7Br
reactant | sodium bicarbonate | 0.084 g | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1,2,3,4,5,6-hexahydro-3-cyclopropylmethyl-6-methyl-8-hydroxy-11-oxo-2,6-methano-3-benzazocine | C1(CC1)CN1C2CC3=C(C(CC1)(C2=O)C)C=C(C=C3)O | C17H21NO2
